US06660744B1
To a solution of cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.100 g, 0.227 mmol) in ethylene glycol dimethyl ether (3 mL) and water (1.5 mL) under nitrogen was added N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-benzo[d]imidazol-2-amine (0.099 g, 0.28 mmol), tetrakis(triphenylphosphine) palladium (0) (0.013 mg, 0.011 mmol), and sodium carbonate (0.060 mg, 0.568 mmol). The solution was stirred at 83° C. for 15 h. The resulting yellow mixture was concentrated in vacuo to give a yellow oil. Purification by preparative HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 20 min at 21 mL/min using a 8μ Hypersil HS C18, 250×21 mm column, tr=7.3-11.2 min.) afforded cis-3-{4-[(1-methyl-1H-benzo[d]imidazol-2-yl)amino]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as an off-white solid (0.061 g, 50%): 1H NMR (DMSO-d6, 400 MHz) δ 9.17 (s, 1H), 8.23 (s, 1H), 8.08 (d, 2H), 7.62 (d, 2H), 7.42 (m, 1H), 7.33 (m, 1H), 7.08 (m, 1H), 4.80 (m, 1H), 3.76 (s, 3H), 2.50-2.07 (m, 12H), 1.80-1.60 (m, 8H); RP-HPLC (25 to 100% CH3CN in 0.1 N aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) tr=5.92 min., 99%; m/z 537 (MH+).

reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.227 mmol, 0.100 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1-methyl-1H-benzo[d]imidazol-2-amine | 0.28 mmol, 0.099 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC1=NC2=C(N1C)C=CC=C2)C | C20H24BN3O2
reactant | sodium carbonate | 0.568 mmol, 0.060 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.011 mmol, 0.013 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | cis-3-{4-[(1-methyl-1H-benzo[d]imidazol-2-yl)amino]phenyl}-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.061 g, 50% | CN1C(=NC2=C1C=CC=C2)NC2=CC=C(C=C2)C2=NN(C1=NC=NC(=C12)N)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C30H36N10
